US09387200B2
b) [(4-Ethyl-7-hydroxy-3-methyl-isothiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid
The title compound was synthesized in analogy to Example 1 from 4-ethyl-7-hydroxy-3-methyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester and glycine: MS (m/z) 296.2 (M+1).

reactant | 4-ethyl-7-hydroxy-3-methyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester | C(CCC)OC(=O)C1=C(C2=C(C(=N1)CC)C(=NS2)C)O | C14H18N2O3S
reactant | glycine | NCC(=O)O | C2H5NO2
product | [(4-Ethyl-7-hydroxy-3-methyl-isothiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid | C(C)C1=NC(=C(C2=C1C(=NS2)C)O)C(=O)NCC(=O)O | C12H13N3O4S
